US06414148B1
A solution of 2-(2-bromoethyl)-1,3-dioxolane (258 mg, 1.4 mmol) in DMF (0.5 ml) was added to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (329 mg, 1.02 mmol) and potassium carbonate (264 mg, 2 mmol) in DMF (2 ml). The mixture was heated at 100° C. for 3 hours and allowed to cool. The volatiles were removed by evaporation, and the residue partitioned between aqueous sodium hydrogen carbonate solution and methylene chloride. The organic phase was separated and passed through phase separating paper. The solvent was removed by evaporation, and the residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give 4-(4-chloro-2-fluoroanilino)-7-(2-(1,3-dioxolan-2-yl)ethoxy)methoxyquinazoline (71 mg, 17%).

reactant | 2-(2-bromoethyl)-1,3-dioxolane | 1.4 mmol, 258 mg | BrCCC1OCCO1 | C5H9BrO2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1.02 mmol, 329 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | potassium carbonate | 2 mmol, 264 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-fluoroanilino)-7-(2-(1,3-dioxolan-2-yl)ethoxy)methoxyquinazoline | 71 mg, 17% | ClC1=CC(=C(NC2=NC=NC3=CC(=CC=C23)OCOCCC2OCCO2)C=C1)F | C20H19ClFN3O4
